US05175177
a) 3,5-Dimethyl-4-(3-ethinylpropoxy)benzonitrile
A mixture of 40 g 3,5-dimethyl-4-hydroxybenzonitrile, 32 ml 5-chloro-1-pentyne (d=0.968) and 74.63 g milled potassium carbonate in 25 ml N-methylpyrrolidine was heated under nitrogen at 100° C. with stirring for four hours. The mixture, after cooling to room temperature and addition of 300 ml water, was extracted with ethyl acetate. The ethyl acetate extracts were washed with aqueous 2N sodium hydroxide solution and saturated sodium chloride solution, dried (MgSO4) and then concentrated in vacuo. The residue was subjected to flash filtration (activated magnesium silicate; ether/hexane) and the filtrate was concentrated in vacuo to give, after recrystallization (methyl alcohol/0° C.) 34.64 g of the title compound.

reactant | 3,5-dimethyl-4-hydroxybenzonitrile | 40 g | CC=1C=C(C#N)C=C(C1O)C | C9H9NO
reactant | 5-chloro-1-pentyne | 32 ml | ClCCCC#C | C5H7Cl
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | water | 300 ml | O | H2O
solvent | N-methylpyrrolidine | 25 ml | CN1CCCC1 | C5H11N
product | 3,5-Dimethyl-4-(3-ethinylpropoxy)benzonitrile | CC=1C=C(C#N)C=C(C1OCCCC#C)C | C14H15NO
